US20010047099A1
19. Preparation of 4-Nitro-3,6-dichloropyridine-2-carboxylic acid (Compound 39)
Methyl 3,6-dichloropyridine-2-carboxylate N-oxide (5.0 g, 22.52 mmol) was dissolved in a minimum amount of H2SO4. The mixture was cooled in an ice/water bath and to it was slowly added 30% oleum (9.6 mL) and fuming HNO3 (9.6 mL), gradually heated to 65° C. and stirred for 48 hr. The cooled reaction mixture was diluted with ethyl acetate (200 mL) and to it was carefully added saturated sodium bicarbonate. The product was extracted with ethyl acetate (2×150 mL) and the combined extracts were dried (MgSO4) and concentrated to give 0.10 g of a yellow solid; mp 192-193° C.

reactant | Methyl 3,6-dichloropyridine-2-carboxylate N-oxide | 22.52 mmol, 5.0 g | ClC1=C([N+](=C(C=C1)Cl)[O-])C(=O)OC | C7H5Cl2NO3
reactant | oleum | 9.6 mL | OS(=O)(=O)O.O=S(=O)=O
reactant | HNO3 | 9.6 mL | [N+](=O)(O)[O-] | HNO3
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | H2SO4 | OS(=O)(=O)O | H2O4S
solvent | ethyl acetate | 200 mL | C(C)(=O)OCC | C4H8O2
product | 4-Nitro-3,6-dichloropyridine-2-carboxylic acid | 0.10 g | [N+](=O)([O-])C1=C(C(=NC(=C1)Cl)C(=O)O)Cl | C6H2Cl2N2O4
